*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXH6R3ARA471MJ80G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXH6R3ARA471MJ80G_20deg-C 1 2

C1 4 2 3.25e-04
C2 5 2 1.02e-04
C3 6 2 1.97e-05
R1 3 4 1.05e-02
R2 4 5 4.05e-02
R3 5 6 1.98e+00
L1 1 3 4.20e-09

.ENDS
