*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXJ160ARA271MF80J
*//   Date        : 2024/5/14
*//   Version     : 1.0
*//   Comment     : 
*//   Simulator   : P-Spice
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXJ160ARA271MF80J_20deg-C 1 2

C1 4 2 1.20e-04
C2 5 2 9.32e-05
C3 6 2 2.66e-05
R1 3 4 6.71e-03
R2 4 5 3.35e-02
R3 5 6 6.36e-01
L1 1 3 2.70e-09

.ENDS
*$