*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXJ100ARA471MH70G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXJ100ARA471MH70G_20deg-C 1 2

C1 4 2 2.86e-04
C2 5 2 2.08e-04
C3 6 2 2.22e-05
R1 3 4 9.64e-03
R2 4 5 3.49e-02
R3 5 6 9.25e-01
L1 1 3 3.40e-09

.ENDS
*$
