*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMHB160ARA221MHA0G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHB160ARA221MHA0G_20deg-C 1 2

C1 4 2 4.40e-05
C2 5 2 1.13e-04
C3 6 2 3.61e-05
R1 3 4 1.31e-01
R2 4 5 3.62e-02
R3 5 6 2.07e-01
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMHB160ARA221MHA0G_-40deg-C 1 2

C1 4 2 1.33e-06
C2 5 2 5.17e-05
C3 6 2 1.29e-04
R1 3 4 1.95e+00
R2 4 5 6.35e-01
R3 5 6 7.05e-01
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMHB160ARA221MHA0G_125deg-C 1 2

C1 4 2 1.90e-04
C2 5 2 2.27e-05
C3 6 2 1.05e-05
R1 3 4 4.64e-02
R2 4 5 2.87e-01
R3 5 6 1.48e+01
L1 1 3 4.00e-09

.ENDS
*$
