*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMHB350ARA101MHA0G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHB350ARA101MHA0G_20deg-C 1 2

C1 4 2 2.88e-05
C2 5 2 5.93e-05
C3 6 2 8.73e-06
R1 3 4 1.33e-01
R2 4 5 4.72e-02
R3 5 6 3.10e+00
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMHB350ARA101MHA0G_-40deg-C 1 2

C1 4 2 4.12e-07
C2 5 2 2.03e-05
C3 6 2 6.97e-05
R1 3 4 1.03e+00
R2 4 5 3.76e-01
R3 5 6 5.14e-01
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMHB350ARA101MHA0G_125deg-C 1 2

C1 4 2 8.78e-05
C2 5 2 1.21e-05
C3 6 2 3.76e-06
R1 3 4 4.19e-02
R2 4 5 2.36e-01
R3 5 6 1.72e+01
L1 1 3 4.00e-09

.ENDS
*$
