*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMHB350ARA470MHA0G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHB350ARA470MHA0G_20deg-C 1 2

C1 4 2 1.47e-05
C2 5 2 3.02e-05
C3 6 2 5.32e-06
R1 3 4 1.29e-01
R2 4 5 3.15e-02
R3 5 6 1.25e+00
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMHB350ARA470MHA0G_-40deg-C 1 2

C1 4 2 3.15e-07
C2 5 2 1.47e-05
C3 6 2 3.29e-05
R1 3 4 1.02e+00
R2 4 5 4.51e-01
R3 5 6 5.31e-01
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMHB350ARA470MHA0G_125deg-C 1 2

C1 4 2 4.85e-05
C2 5 2 4.21e-06
C3 6 2 1.82e-06
R1 3 4 3.99e-02
R2 4 5 8.28e-01
R3 5 6 3.45e+01
L1 1 3 4.00e-09

.ENDS
*$
