*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMHB350ARA101MJA0G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHB350ARA101MJA0G_20deg-C 1 2

C1 4 2 5.22e-05
C2 5 2 3.39e-05
C3 6 2 2.39e-05
R1 3 4 9.94e-02
R2 4 5 2.49e-02
R3 5 6 8.79e-03
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMHB350ARA101MJA0G_-40deg-C 1 2

C1 4 2 5.99e-07
C2 5 2 3.12e-05
C3 6 2 8.30e-05
R1 3 4 7.38e-01
R2 4 5 2.27e-01
R3 5 6 2.95e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMHB350ARA101MJA0G_125deg-C 1 2

C1 4 2 1.14e-04
C2 5 2 1.06e-05
C3 6 2 3.90e-06
R1 3 4 3.33e-02
R2 4 5 3.01e-01
R3 5 6 1.82e+01
L1 1 3 4.50e-09

.ENDS
*$
