*$
*//-----------------------------------------------------------------------//
*//   Part        : EMHK350ARA101MF80G
*//   Date        : 2020/12/23
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHK350ARA101MF80G_20deg-C 1 2

C1 4 2 3.36e-05
C2 5 2 4.70e-05
C3 6 2 1.14e-05
R1 3 4 2.39e-01
R2 4 5 1.47e-01
R3 5 6 1.83e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMHK350ARA101MF80G_-40deg-C 1 2

C1 4 2 1.92e-06
C2 5 2 1.40e-05
C3 6 2 5.96e-05
R1 3 4 1.42e+00
R2 4 5 1.75e-01
R3 5 6 8.41e-01
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMHK350ARA101MF80G_125deg-C 1 2

C1 4 2 8.97e-05
C2 5 2 3.85e-06
C3 6 2 5.70e-06
R1 3 4 8.35e-02
R2 4 5 1.23e+00
R3 5 6 1.38e+00
L1 1 3 3.00e-09

.ENDS
*$
