*$
*//-----------------------------------------------------------------------//
*//   Part        : EMHK350ARA470MF80G
*//   Date        : 2021/01/12
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHK350ARA470MF80G_20deg-C 1 2

C1 4 2 1.10e-05
C2 5 2 2.70e-05
C3 6 2 3.85e-06
R1 3 4 1.98e-01
R2 4 5 7.53e-02
R3 5 6 4.28e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMHK350ARA470MF80G_-40deg-C 1 2

C1 4 2 7.47e-07
C2 5 2 9.59e-06
C3 6 2 2.62e-05
R1 3 4 1.10e+00
R2 4 5 2.34e-01
R3 5 6 4.99e-01
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMHK350ARA470MF80G_125deg-C 1 2

C1 4 2 3.92e-05
C2 5 2 5.89e-06
C3 6 2 3.15e-06
R1 3 4 7.24e-02
R2 4 5 7.35e-01
R3 5 6 2.16e+01
L1 1 3 3.00e-09

.ENDS
*$
