*$
*//-----------------------------------------------------------------------//
*//   Part        : EMHK350ARA221MHA0G
*//   Date        : 2021/01/07
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHK350ARA221MHA0G_20deg-C 1 2

C1 4 2 4.48e-05
C2 5 2 1.47e-04
C3 6 2 1.33e-05
R1 3 4 9.66e-02
R2 4 5 4.39e-02
R3 5 6 7.83e+00
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMHK350ARA221MHA0G_-40deg-C 1 2

C1 4 2 1.29e-06
C2 5 2 4.01e-05
C3 6 2 1.48e-04
R1 3 4 7.61e-01
R2 4 5 1.82e-01
R3 5 6 4.47e-01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMHK350ARA221MHA0G_125deg-C 1 2

C1 4 2 1.78e-04
C2 5 2 3.22e-05
C3 6 2 9.61e-06
R1 3 4 3.62e-02
R2 4 5 1.13e-01
R3 5 6 7.13e+00
L1 1 3 3.90e-09

.ENDS
*$
