*$
*//-----------------------------------------------------------------------//
*//   Part        : EMHL350ARA101MF80G
*//   Date        : 2022/06/01
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHL350ARA101MF80G_20deg-C 1 2

C1 4 2 2.31e-05
C2 5 2 6.47e-05
C3 6 2 5.63e-06
R1 3 4 2.99e-01
R2 4 5 1.26e-01
R3 5 6 4.37e+01
L1 1 3 3.00e-09

.ENDS
*$