*$
*//-----------------------------------------------------------------------//
*//   Part        : EMHL350ARA470MF61G
*//   Date        : 2024/3/21
*//   Version     : 1.0
*//   Comment     : U24C010079
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C/-40deg-C/125deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHL350ARA470MF61G_20deg-C 1 2

C1 4 2 2.71e-06
C2 5 2 1.28e-05
C3 6 2 2.70e-05
R1 3 4 4.67e-01
R2 4 5 1.34e-01
R3 5 6 4.82e-01
L1 1 3 2.80e-09

.ENDS

.SUBCKT EMHL350ARA470MF61G_-40deg-C 1 2

C1 4 2 1.13e-07
C2 5 2 5.68e-06
C3 6 2 3.30e-05
R1 3 4 4.27e+00
R2 4 5 1.69e+00
R3 5 6 3.82e+00
L1 1 3 2.80e-09

.ENDS


.SUBCKT EMHL350ARA470MF61G_125deg-C 1 2

C1 4 2 8.10e-06
C2 5 2 1.73e-05
C3 6 2 1.89e-05
R1 3 4 1.08e-01
R2 4 5 6.32e-02
R3 5 6 1.69e-02
L1 1 3 2.80e-09

.ENDS
*$
