*$
*//-----------------------------------------------------------------------//
*//   Part	No.	 : EMHL350ARA221MHA0G
*//   Date		 : 2024/3/29
*//   Version 	 : 1.0
*//   Comment	 : 
*//   Simulator	 : P-Spice
*//   Temperature 	 : 20deg-C/-40deg-C/125deg-C
*//   Model	 : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHL350ARA221MHA0G_20deg-C 1 2

C1 4 2 3.07e-05
C2 5 2 1.54e-04
C3 6 2 2.44e-05
R1 3 4 1.47e-01
R2 4 5 6.70e-02
R3 5 6 2.01e+00
L1 1 3 3.60e-09

.ENDS

.SUBCKT EMHL350ARA221MHA0G_-40deg-C 1 2

C1 4 2 2.61e-07
C2 5 2 2.09e-05
C3 6 2 1.62e-04
R1 3 4 1.21e+00
R2 4 5 5.83e-01
R3 5 6 9.60e-01
L1 1 3 3.60e-09

.ENDS


.SUBCKT EMHL350ARA221MHA0G_125deg-C 1 2

C1 4 2 6.15e-05
C2 5 2 1.29e-04
C3 6 2 2.27e-05
R1 3 4 3.90e-02
R2 4 5 1.84e-02
R3 5 6 1.11e-02
L1 1 3 3.60e-09

.ENDS
*$
