*$
*//-----------------------------------------------------------------------//
*//   Part        : EMHL350ARA331MJA0G
*//   Date        : 2022/06/10
*//   Temperature : 20deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHL350ARA331MJA0G_20deg-C 1 2

C1 4 2 4.74e-05
C2 5 2 1.23e-04
C3 6 2 1.59e-04
R1 3 4 9.17e-02
R2 4 5 2.99e-02
R3 5 6 7.13e-02
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMHL350ARA331MJA0G_125deg-C 1 2

C1 4 2 2.91e-04
C2 5 2 5.99e-05
C3 6 2 2.29e-05
R1 3 4 3.29e-02
R2 4 5 9.61e-02
R3 5 6 8.23e+00
L1 1 3 4.50e-09

.ENDS
*$