*$
*//-----------------------------------------------------------------------//
*//   Part        : EMHS630ARA331MKG5S
*//   Date        : 2022/08/22
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHS630ARA331MKG5S_20deg-C 1 2

C1 4 2 8.42e-05
C2 5 2 1.57e-04
C3 6 2 5.36e-05
R1 3 4 7.62e-02
R2 4 5 2.62e-02
R3 5 6 6.89e-03
L1 1 3 6.10e-09

.ENDS
*$