*$
*//-----------------------------------------------------------------------//
*//   Part        : EMLA250ARA471MJA0G
*//   Date        : 2022/05/13
*//   Temperature : 20deg.C/-40deg.C/-25deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMLA250ARA471MJA0G_20deg-C 1 2

C1 4 2 1.04e-04
C2 5 2 3.39e-04
C3 6 2 2.64e-05
R1 3 4 7.04e-02
R2 4 5 2.30e-02
R3 5 6 5.70e+00
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMLA250ARA471MJA0G_-40deg-C 1 2

C1 4 2 2.83e-06
C2 5 2 8.02e-05
C3 6 2 3.51e-04
R1 3 4 2.98e-01
R2 4 5 5.90e-02
R3 5 6 1.37e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMLA250ARA471MJA0G_-25deg-C 1 2

C1 4 2 3.13e-05
C2 5 2 1.40e-04
C3 6 2 2.78e-04
R1 3 4 1.82e-01
R2 4 5 3.67e-02
R3 5 6 8.85e-02
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMLA250ARA471MJA0G_105deg-C 1 2

C1 4 2 2.00e-04
C2 5 2 2.82e-04
C3 6 2 2.20e-05
R1 3 4 3.72e-02
R2 4 5 9.74e-03
R3 5 6 1.49e+01
L1 1 3 4.50e-09

.ENDS
*$