*$
*//-----------------------------------------------------------------------//
*//   Part        : EMVE350ARA331MJA0G
*//   Date        : 2024/6/27
*//   Version     : 1.0
*//   Comment     : U24C010171
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVE350ARA331MJA0G_20deg-C 1 2

C1 4 2 6.54e-05
C2 5 2 1.91e-04
C3 6 2 2.33e-05
R1 3 4 2.91e-01
R2 4 5 1.03e-01
R3 5 6 9.31e-03
L1 1 3 4.50e-09

.ENDS
*$
