*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMVH250ARA101MF80G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVH250ARA101MF80G_20deg-C 1 2

C1 4 2 8.88e-06
C2 5 2 2.45e-05
C3 6 2 5.02e-05
R1 3 4 3.43e-01
R2 4 5 5.88e-02
R3 5 6 1.40e-01
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMVH250ARA101MF80G_-40deg-C 1 2

C1 4 2 5.46e-08
C2 5 2 1.10e-05
C3 6 2 6.63e-05
R1 3 4 3.70e+00
R2 4 5 2.13e+00
R3 5 6 2.41e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMVH250ARA101MF80G_125deg-C 1 2

C1 4 2 2.74e-05
C2 5 2 6.25e-05
C3 6 2 4.12e-06
R1 3 4 8.11e-02
R2 4 5 2.36e-02
R3 5 6 1.51e+00
L1 1 3 3.00e-09

.ENDS
*$
