*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMVH350ARA470MF80G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVH350ARA470MF80G_20deg-C 1 2

C1 4 2 3.07e-06
C2 5 2 2.86e-05
C3 6 2 1.33e-05
R1 3 4 7.41e-01
R2 4 5 1.49e-01
R3 5 6 1.09e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMVH350ARA470MF80G_-40deg-C 1 2

C1 4 2 9.45e-08
C2 5 2 5.41e-06
C3 6 2 2.84e-05
R1 3 4 1.08e+01
R2 4 5 4.87e+00
R3 5 6 2.98e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMVH350ARA470MF80G_125deg-C 1 2

C1 4 2 5.83e-06
C2 5 2 3.77e-05
C3 6 2 4.60e-06
R1 3 4 1.12e-01
R2 4 5 2.79e-02
R3 5 6 9.41e-01
L1 1 3 3.00e-09

.ENDS
*$
