*$
*//-----------------------------------------------------------------------//
*//   Part        : EMVH160ARA221MHA0G
*//   Date        : 2022/12/15
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVH160ARA221MHA0G_20deg-C 1 2

C1 4 2 2.73e-05
C2 5 2 1.22e-04
C3 6 2 4.54e-05
R1 3 4 2.09e-01
R2 4 5 5.42e-02
R3 5 6 2.89e-01
L1 1 3 3.60e-09

.ENDS
*$