*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMVH350ARA221MJA0G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVH350ARA221MJA0G_20deg-C 1 2

C1 4 2 3.51e-05
C2 5 2 1.16e-04
C3 6 2 4.53e-05
R1 3 4 1.64e-01
R2 4 5 3.48e-02
R3 5 6 2.39e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMVH350ARA221MJA0G_-40deg-C 1 2

C1 4 2 1.01e-06
C2 5 2 6.13e-05
C3 6 2 1.22e-04
R1 3 4 1.83e+00
R2 4 5 7.37e-01
R3 5 6 9.24e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMVH350ARA221MJA0G_125deg-C 1 2

C1 4 2 1.83e-04
C2 5 2 2.93e-05
C3 6 2 9.54e-06
R1 3 4 4.42e-02
R2 4 5 2.26e-01
R3 5 6 9.93e+00
L1 1 3 4.50e-09

.ENDS
*$
