*$
*//-----------------------------------------------------------------------//
*//   Part        : EMVH500ARA101MJA0G
*//   Date        : 2024/2/20
*//   Temperature : 20deg-C/-40deg-C/125deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVH500ARA101MJA0G_20deg-C 1 2

C1 4 2 2.60e-06
C2 5 2 5.48e-05
C3 6 2 3.68e-05
R1 3 4 2.20e-01
R2 4 5 9.50e-02
R3 5 6 3.37e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMVH500ARA101MJA0G_-40deg-C 1 2

C1 4 2 9.00e-08
C2 5 2 1.24e-05
C3 6 2 7.22e-05
R1 3 4 1.46e+00
R2 4 5 2.36e+00
R3 5 6 1.34e+00
L1 1 3 4.50e-09

.ENDS


.SUBCKT EMVH500ARA101MJA0G_125deg-C 1 2

C1 4 2 1.00e-05
C2 5 2 8.02e-05
C3 6 2 8.90e-06
R1 3 4 4.74e-02
R2 4 5 2.27e-02
R3 5 6 2.66e-01
L1 1 3 4.50e-09

.ENDS
*$
