*$
*//-----------------------------------------------------------------------//
*//   Part        : EMVY250ARA101MF80G
*//   Date        : 2021/02/04 
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVY250ARA101MF80G_20deg-C 1 2

C1 4 2 2.22e-05
C2 5 2 6.27e-05
C3 6 2 1.14e-05
R1 3 4 1.86e-01
R2 4 5 7.16e-02
R3 5 6 3.89e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMVY250ARA101MF80G_-55deg-C 1 2

C1 4 2 7.20e-07
C2 5 2 1.72e-05
C3 6 2 6.83e-05
R1 3 4 1.92e+00
R2 4 5 3.55e-01
R3 5 6 9.36e-01
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMVY250ARA101MF80G_105deg-C 1 2

C1 4 2 7.98e-05
C2 5 2 1.81e-05
C3 6 2 3.78e-06
R1 3 4 8.61e-02
R2 4 5 3.24e-01
R3 5 6 1.97e+01
L1 1 3 3.00e-09

.ENDS
*$
