*$
*//-----------------------------------------------------------------------//
*//   Part        : EMVY350ARA220MF55G
*//   Date        : 2021/12/16 
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVY350ARA220MF55G_20deg-C 1 2

C1 4 2 2.05e-06
C2 5 2 1.31e-05
C3 6 2 6.55e-06
R1 3 4 7.73e-01
R2 4 5 1.41e-01
R3 5 6 1.24e+00
L1 1 3 2.20e-09

.ENDS

.SUBCKT EMVY350ARA220MF55G_-55deg-C 1 2

C1 4 2 5.02e-08
C2 5 2 3.82e-06
C3 6 2 1.48e-05
R1 3 4 8.98e+00
R2 4 5 5.49e+00
R3 5 6 3.35e+00
L1 1 3 2.20e-09

.ENDS

.SUBCKT EMVY350ARA220MF55G_105deg-C 1 2

C1 4 2 1.65e-05
C2 5 2 5.23e-06
C3 6 2 1.54e-06
R1 3 4 2.35e-01
R2 4 5 3.68e-01
R3 5 6 2.52e+01
L1 1 3 2.20e-09

.ENDS
*$
